US07781590B2
2.3. 3-(piperidin-4-ylmethyl)-1,3-oxazolidine-2,4-dione hydrochloride
A suspension of 12.51 g (41.95 mmol) of 1,1-dimethylethyl 4-[(2,4-dioxo-1,3-oxazolidin-3-yl)methyl]piperidine-1-carboxylate, obtained in step 2.2., in 65 ml of dioxane is admixed with 38.10 ml (209.75 mmol) of a solution of hydrochloric acid (5N) in isopropanol. Stirring is continued at approximately 60° C. for 17 hours. The suspension is allowed to return to ambient temperature. The solid formed is collected by filtration and then washed repeatedly with ether and dried under vacuum at approximately 70° C.

reactant | 1,1-dimethylethyl 4-[(2,4-dioxo-1,3-oxazolidin-3-yl)methyl]piperidine-1-carboxylate | 41.95 mmol, 12.51 g | O=C1OCC(N1CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C14H22N2O5
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | dioxane | 65 ml | O1CCOCC1 | C4H8O2
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-(piperidin-4-ylmethyl)-1,3-oxazolidine-2,4-dione hydrochloride | Cl.N1CCC(CC1)CN1C(OCC1=O)=O | InChI=1S/C9H14N2O3.ClH/c12-8-6-14-9(13)11(8)5-7-1-3-10-4-2-7;/h7,10H,1-6H2;1H
